US06063806
1-Octyl-6-ethoxycarbonylmethyl-5,7-dimethyl-1,2,3,4-tetrahydroquinoline (1.0 g) was dissolved in acetic anhydride (5 ml), and a solution of 70% nitric acid (517 mg) in acetic anhydride (3 ml) was dropwise added, which was followed by stirring at the same temperature for 0.5 hr. The reaction mixture was poured into ice water (50 ml), neutralized with saturated aqueous solution of sodium hydrogencarbonate, and extracted with chloroform (50 ml). After washing with water, the chloroform layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: n-hexane-ethyl acetate/n-hexane=1/5) to give 700 mg of oily 1-octyl-6-ethoxycarbonylmethyl-5,7-dimethyl-8-nitro-1,2,3,4-tetrahydroquinoline.

reactant | 1-Octyl-6-ethoxycarbonylmethyl-5,7-dimethyl-1,2,3,4-tetrahydroquinoline | 1.0 g | C(CCCCCCC)N1CCCC2=C(C(=C(C=C12)C)CC(=O)OCC)C | C23H37NO2
reactant | nitric acid | 517 mg | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-octyl-6-ethoxycarbonylmethyl-5,7-dimethyl-8-nitro-1,2,3,4-tetrahydroquinoline | 700 mg | C(CCCCCCC)N1CCCC2=C(C(=C(C(=C12)[N+](=O)[O-])C)CC(=O)OCC)C | C23H36N2O4
